US08314109B2
2°) A solution of 0.19 g of N-phenyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)imidazo[1,2-a]pyridine-2-carboxamide hydrobromide (1:1) in 9 mL of acetonitrile is treated with 0.5 mL of hydrochloric acid and 1 g of polymer-supported benzeneboronic acid (Alfa-Aesar L19459, ˜3 mmol/g). The reaction mixture is stirred for 16 hours at 25° C. and then refluxed for 1 hour. The resin is filtered off, washed with acetonitrile and then with methanol and the combined filtrates are evaporated to dryness under reduced pressure to give 160 mg of 2-phenylcarbamoylimidazo[1,2-a]pyridine-6-boronic acid hydrochloride (1:1) in the form of an orange-coloured solid.

reactant | N-phenyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)imidazo[1,2-a]pyridine-2-carboxamide hydrobromide | 0.19 g | Br.C1(=CC=CC=C1)NC(=O)C=1N=C2N(C=C(C=C2)B2OC(C(O2)(C)C)(C)C)C1
reactant | hydrochloric acid | 0.5 mL | Cl | ClH
reactant | benzeneboronic acid | 1 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | acetonitrile | 9 mL | C(C)#N | C2H3N
product | 2-phenylcarbamoylimidazo[1,2-a]pyridine-6-boronic acid hydrochloride | 160 mg | Cl.C1(=CC=CC=C1)NC(=O)C=1N=C2N(C=C(C=C2)B(O)O)C1 | InChI=1S/C14H12BN3O3.ClH/c19-14(16-11-4-2-1-3-5-11)12-9-18-8-10(15(20)21)6-7-13(18)17-12;/h1-9,20-21H,(H,16,19);1H
